US07157447B2
N-(4-Fluoro-2-(morpholine-4-carbonyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 44, (2-(aminomethyl)-5-fluorophenyl)(morpholino)methanone. 1H NMR (CDCl3, 500 MHz) δ ppm: 1.59 (6H, s), 3.29 (2H, brs), 3.57 (2H, m), 3.74 (4H, s), 3.98 (4H, m), 5.26 (2H, s), 6.88 (1H, dd, 3=8.2, 2.7 Hz), 7.03 (1H, dt, J=8.5, 2.5 Hz), 7.24–7.33 (3H, m), 7.42 (2H, dd, J=8.6, 5.3 Hz), 7.47 (2H, dd, J=7.5, 2.0 Hz), 8.18 (1H, t, J=6.4 Hz); LC/MS m/z 551 (M+H).

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | (2-(aminomethyl)-5-fluorophenyl)(morpholino)methanone | NCC1=C(C=C(C=C1)F)C(=O)N1CCOCC1 | C12H15FN2O2
product | N-(4-Fluoro-2-(morpholine-4-carbonyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C(=O)N1CCOCC1 | C29H31FN4O6
